US07491735B2
Using general procedure A with p-anisidine (738 mg, 6.00 mmol) and (R)-3-(4-oxo-piperidin-1-yl)-butyronitrile (1.11 g, 6.67 mmol) followed by general procedure J gave [1-((R)-3-amino-1-methyl-propyl)-piperidin-4-yl]-(4-methoxy-phenyl)-amine as an orange oil (1.43 g, 86% over 2 steps).

reactant | p-anisidine | 6.00 mmol, 738 mg | COC1=CC=C(C=C1)N | C7H9NO
reactant | (R)-3-(4-oxo-piperidin-1-yl)-butyronitrile | 6.67 mmol, 1.11 g | O=C1CCN(CC1)[C@@H](CC#N)C | C9H14N2O
product | [1-((R)-3-amino-1-methyl-propyl)-piperidin-4-yl]-(4-methoxy-phenyl)-amine | NCC[C@@H](C)N1CCC(CC1)NC1=CC=C(C=C1)OC | C16H27N3O
